Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ w/ hx of hypothyroidism who is 
presenting here to the ED after MVC, for which we were 
consulted. Her husband was driving and meant to press on the 
brake, but accelerated instead and hit a cement wall. Air bags 
were deployed, she denies any headstrike or LOC. She notes some 
chest
pain and back pain. CXR was initially obtained which showed no 
traumatic injuries, and a T/L spine XR was obtained showing a 
T12 deformity. She continued to have pain and a CT torso was 
obtained, showing sternal fx, R rib 2 fx, T12 compression fx, 
and distal sacral/proximal coccyx fx. CT head and CT C-spine 
were later obtained which were -ve for acute traumatic injuries.

 
Past Medical History:
PMHx: hypothyroidism, OA, vit D deficiency  
PSHx: none  

 
Social History:
___
Family History:
None contributory. 
 
Physical Exam:
Admission Physical Exam:
VS - 97.3 89 145/78 14 97% RA
Gen - NAD
HEENT - PERRL, no blood from nares, ears, or mouth, full neck 
ROM
w/ no pain, no C-spine ttp
CV - RRR, S1 and S2 heard, no r/m/g
Pulm - non-labored breathing, no resp distress
Abd - soft, nondistended, nontender
MSK & extremities/skin - no leg swelling observed b/l, no
abrasion, lacerations, or bony deformities noted, b/l palpable 
DP
and ___ pulses, mild T-spine and sacral ttp

Discharge Physical Exam:
VS:  98.0 PO 123 / 72 76 18 94 RA 
GEN: Awake, alert, pleasant and interactive.
CV: RRR
PULM: Clear to auscultation bilaterally. Pain to palpation 
bilateral ribs, back, and chest.
ABD: Soft, non-tender, non-distended. Active bowel sounds.
EXT: Warm and dry. No edema. 2+ ___ pulses.
NEURO: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 07:25AM BLOOD WBC-6.1 RBC-4.08 Hgb-13.5 Hct-40.9 
MCV-100* MCH-33.1* MCHC-33.0 RDW-12.5 RDWSD-46.2 Plt ___
___ 05:33AM BLOOD WBC-5.6 RBC-3.83* Hgb-12.8 Hct-38.8 
MCV-101* MCH-33.4* MCHC-33.0 RDW-12.9 RDWSD-48.4* Plt ___
___ 04:21PM BLOOD WBC-14.1* RBC-4.42 Hgb-14.5 Hct-43.8 
MCV-99* MCH-32.8* MCHC-33.1 RDW-12.6 RDWSD-45.8 Plt ___
___ 07:25AM BLOOD Glucose-102* UreaN-12 Creat-0.8 Na-141 
K-3.8 Cl-101 HCO3-28 AnGap-12
___ 05:33AM BLOOD Glucose-95 UreaN-9 Creat-0.6 Na-142 K-4.1 
Cl-103 HCO3-27 AnGap-12
___ 04:21PM BLOOD Glucose-128* UreaN-14 Creat-0.7 Na-143 
K-4.3 Cl-103 HCO3-25 AnGap-15
___ 07:25AM BLOOD Calcium-9.6 Phos-3.7 Mg-2.1
___ 05:33AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.2

___ CT C-spine:
1. No evidence for a fracture.  Normal alignment. 
2. The spinal canal is not optimally assessed by CT compared to 
MRI.  However, spinal canal narrowing by disc protrusion appears 
at least moderate at C6-C7.

___ CT Head:
No evidence for acute intracranial abnormalities.

___ CT Torso:
1. Acute appearing mild compression deformity of the T12 
vertebral body 
without retropulsion into the spinal canal. 
2. Right anterior second rib fracture. 
3. Nondisplaced fracture of the anterior cortex of the sternum. 
4. Small nondisplaced fracture of the distal sacrum/proximal 
coccyx. 
5. No other acute sequelae of trauma. 
6. Hepatic steatosis. 
  
___ CXR:
Relatively low lung volumes.  Streaky bibasilar opacities could 
be due to 
atelectasis and/or aspiration, although focal consolidation due 
to pneumonia or less likely pulmonary contusion, not excluded in 
the appropriate clinical setting. 

___ Lumbar Spine:
Loss of height of the superior endplate of the T12 vertebral 
body, on the 
superior edge of the study, concerning for compression fracture 
of 
indeterminate age. Correlate clinically for acuity and for need 
for 
additional imaging. Please note that cross-sectional imaging, 
such as CT or MRI, is more sensitive in detecting acute spine 
injury and should be 
considered if there is clinical concern. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F who was admitted to the Acute Care 
Trauma Surgery service on ___ after sustaining a motor 
vehicle crash car vs. wall. Patient was restrained passenger in 
head on collision. Patient had chest, thoracic, and lumbar, 
xrays which showed a T12 deformity. A CT torso was obtained and 
showed a sternal fracture, right 2nd rib fracture, a T12 
compression fracture, and a distal sacral/proximal coccyx 
fracture. CT head and C-spine were negative for acute traumatic 
injuries. Orthopedic spine surgery was consulted and recommended 
non-operative management of her injuries with no need for 
bracing. The patient was admitted to the Acute care Surgery 
service for hemodynamic monitoring and pain control.

Pain was well controlled with oral oxycodone, Tylenol, iburpfen, 
and topical lidocaine patches. She tolerated a regular diet 
without difficulty. The patient voided without problem. During 
this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. The patient was seen and evaluated by 
physical therapy who recommended discharge to home. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
LATANOPROST - latanoprost 0.005 % eye drops. 1 drop to each eye 
once a day - (Prescribed by Other Provider)  
 LEVOTHYROXINE - levothyroxine 112 mcg tablet. 1 tablet(s) by 
mouth daily Fasting at bedtime.  
 METRONIDAZOLE - metronidazole 0.75 % lotion. apply to face 
twice a day  
 
 Medications - OTC  
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - Calcium 600 
+ D(3) 600 mg (1,500 mg)-400 unit tablet. 2 tablet(s) by mouth 
daily - (Prescribed by Other Provider; OTC) (Not Taking as 
Prescribed) 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 4000 mg/24 hours.  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
Alternate with Tylenol. Take with food.   
4.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % apply to rib/sternal pain Daily Disp #*30 
Patch Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Take lowest effective dose. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY constipation  
7.  Senna 8.6 mg PO BID:PRN constipation  
8.  Calcium Carbonate 1500 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Levothyroxine Sodium 112 mcg PO DAILY  
11.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
T12 compression fracture  
nondisplaced coccyx fracture  
sternal fracture  
Right 2nd rib fracture  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a motor vehicle crash sustaining multiple injuries 
including:  Thoracic spine compression fracture (T12), 
nondisplaced coccyx fracture, sternal fracture, and right ___ 
rib fracture. You were closely monitored and given pain 
medication to treat your pain. You were seen and evaluated by 
physical therapy who recommended discharge to home to continue 
your recovery.

You are now doing better, pain control is improved, and you are 
ready to be discharge from the hospital to continue your 
recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Rib Fractures:
* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___